US04282247
A mixture of 3.7 g of 5-(2-hydroxy-3-butylthiopropoxy)chromone-2-carboxylic acid monohydrate and 10 ml of N sodium hydroxide is stirred for 10 minutes and the precipitate which forms is filtered, washed with a little acetone and dried. Thus, 3.5 g sodium 5-(2-hydroxy-3-butylthiopropoxy)chromone-2-carboxylate is obtained.

reactant | 5-(2-hydroxy-3-butylthiopropoxy)chromone-2-carboxylic acid monohydrate | 3.7 g | O.OC(COC1=C2C(C=C(OC2=CC=C1)C(=O)O)=O)CSCCCC
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 5-(2-hydroxy-3-butylthiopropoxy)chromone-2-carboxylate | 3.5 g | OC(COC1=C2C(C=C(OC2=CC=C1)C(=O)[O-])=O)CSCCCC.[Na+] | InChI=1S/C17H20O6S.Na/c1-2-3-7-24-10-11(18)9-22-13-5-4-6-14-16(13)12(19)8-15(23-14)17(20)21;/h4-6,8,11,18H,2-3,7,9-10H2,1H3,(H,20,21);/q;+1/p-1
